US05998610
The resultant crude mixture containing protected cefadroxil is worked up by treatment with a mixture of ice water and concentrated HCl. The phases are separated and Reextraction with water/HCl is carried out. The combined aqueous phases are treated with additional DMF, the solution is filtered and left overnight in a refrigerator. Crystalline cefadroxil dimethylformamide solvate is obtained, filtered off, washed with acetone and dried. Yield: 83%.

reactant | cefadroxil | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C16H17N3O5S
reactant | HCl | Cl | ClH
product | cefadroxil dimethylformamide | Yield: 83% | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CN(C=O)C | InChI=1S/C16H17N3O5S.C3H7NO/c1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;1-4(2)3-5/h2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);3H,1-2H3/t10-,11-,15-;/m1./s1
